US04496560
On treating 3-[2-(4-acetamido-phenyl)-thiazol-5-yl]-2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene (3.4 g) with methanesulphonic acid (3.4 cc) in acetonitrile (15 cc), in accordance with the working method described in Example 15, crude 7-amino-3-[2-(4-acetamido-phenyl)-thiazol-5-yl]-2-benzhydryloxycarbonyl-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene (2.9 g) is obtained, and this is acylated with (thien-2-yl)-acetyl chloride (0.62 cc) in accordance with the working method described in Example 1. The crude product obtained is purified by crystallisation from acetonitrile (200 cc). 3-[2-(4-Acetamido-phenyl)-thiazol-5-yl]-2-benzhydryloxycarbonyl-8-oxo-7-[(thien-2-yl)-acetamido]-5-thia-1-azabicyclo[4.2.0]oct-2-ene (1.33 g) is obtained in the form of a beige crystalline powder.

reactant | 3-[2-(4-acetamido-phenyl)-thiazol-5-yl]-2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 3.4 g | C(C)(=O)NC1=CC=C(C=C1)C=1SC(=CN1)C1=C(N2C(C(C2SC1)NC(=O)OC(C)(C)C)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C36H34N4O6S2
reactant | methanesulphonic acid | 3.4 cc | CS(=O)(=O)O | CH4O3S
reactant | (thien-2-yl)-acetyl chloride | 0.62 cc | S1C(=CC=C1)CC(=O)Cl | C6H5ClOS
solvent | acetonitrile | 15 cc | C(C)#N | C2H3N
product | 3-[2-(4-Acetamido-phenyl)-thiazol-5-yl]-2-benzhydryloxycarbonyl-8-oxo-7-[(thien-2-yl)-acetamido]-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 1.33 g | C(C)(=O)NC1=CC=C(C=C1)C=1SC(=CN1)C1=C(N2C(C(C2SC1)NC(CC=1SC=CC1)=O)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C37H30N4O5S3
